US04783453
p-Toluenesulfonic anhydride (19.2 mg, 58.5 micromol) was added to a stirred, 0° C. solution of benzyl 2-amino-carbapen-2-em-3-carboxylate (3.4 mg, 13 micromol) and diisopropylethylamine (37 microliter, 25 mg, 19.5 micromol) in dry dichloromethane (0.4 ml). After 2 hours the mixture was applied to one 20 cm×20 cm 250 micron silica gel preparative thin layer chromatography plate and developed with 2:1 (v/v) diethyl ether-ethyl acetate. The ninhydrin negative product band was collected and eluted with ethyl acetate. Evaporation of the eluate under vacuum provided 0.3 mg (6%) benzyl 2-(p-toluenesulfonamido)carbapen-2-em-3-carboxylate; IR (neat film); 3585, 3350, 1780, 1745, 1625, 1360, 1190 cm-1.

reactant | p-Toluenesulfonic anhydride | 58.5 micromol, 19.2 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | benzyl 2-amino-carbapen-2-em-3-carboxylate | 13 micromol, 3.4 mg | NC=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O | C14H14N2O3
reactant | diisopropylethylamine | 19.5 micromol, 37 microliter, 25 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diethyl ether ethyl acetate | C(C)OCC.C(C)(=O)OCC
solvent | dichloromethane | 0.4 ml | ClCCl | CH2Cl2
product | benzyl 2-(p-toluenesulfonamido)carbapen-2-em-3-carboxylate | 0.3 mg, 6% | C1(=CC=C(C=C1)S(=O)(=O)NC=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O)C | C21H20N2O5S
